US06500863B1
(N-pyrrolidinyl)-3-amino-6-chloro-2-hydroxybenzenesulfonamide
Following the general hydrogenation procedure outlined in example 15, (N-pyrrolidinyl)-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide (0.73 g, 2.4 mmol) was reduced with hydrogen and 10% Pd/C (0.73 g) to form the desired product (0.69 g, crude). MS m/z (M+H) 276.9, 278.89, 279.88.

reactant | (N-pyrrolidinyl)-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide | 2.4 mmol, 0.73 g | N1(CCCC1)C1=C(C(=C(C(=C1)Cl)S(=O)(=O)N)O)[N+](=O)[O-] | C10H12ClN3O5S
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 0.73 g | [Pd] | Pd
product | (N-pyrrolidinyl)-3-amino-6-chloro-2-hydroxybenzenesulfonamide | 0.69 g | N1(CCCC1)C1=C(C(=C(C(=C1)Cl)S(=O)(=O)N)O)N | C10H14ClN3O3S
